US05217976
A mixture of 4-chloro-5,7-diethyl-1-[(2'-(2-triphenylmethyl-2H-tetrazol-5-yl)biphenyl-4-yl)methyl]-1,6-naphthyridin-2(1H)-one (1.0 g), water (10 ml), DMSO (20 ml) and sodium hydroxide (1 g) was stirred and heated at reflux for one hour. The resulting mixture was diluted with water (50 ml), acidified with acetic acid and then extracted twice with ethyl acetate. The combined extracts were washed with water, saturated sodium chloride solution and then dried (MgSO4). Volatile material was removed by evaporation to give a solid, which was washed with ether and collected by filtration. A mixture of the solid (0.2 g), methanol (4 ml) and concentrated hydrochloric acid (1 ml) was stirred for one hour and then volatile material was removed by evaporation. The residue was purified by repeated precipitation from a methanolic solution with ether to give 5,7-diethyl-4-hydroxy-1-[ (2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-1,6-naphthyridin-2(1H)-one hydrochloride (0.11 g); m.p. 222°-225° C.; NMR (d6 -DMSO): 1.21(t, 3H), 1.31(t, 3H), 2.93(q, 2H), 3.47(q, 2H), 5.51(s, 2H), 6.21(s, 1H), 7.06(d, 2H), 7.18(d, 2H), 7.4-7.75(complex m, 5H); mass spectrum (+ve FAB, methanol/NBA): 453 (M+H)+ ; microanalysis, found: C, 62.0; H, 5.2; N, 16.7%; C26H24N6O.HCl.H2O requires: C, 61.6; H, 5.3; N, 16.6%.

reactant | 4-chloro-5,7-diethyl-1-[(2'-(2-triphenylmethyl-2H-tetrazol-5-yl)biphenyl-4-yl)methyl]-1,6-naphthyridin-2(1H)-one | 1.0 g | ClC1=CC(N(C2=CC(=NC(=C12)CC)CC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C45H37ClN6O
reactant | DMSO | 20 ml | CS(=O)C | C2H6OS
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 5,7-diethyl-4-hydroxy-1-[ (2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-1,6-naphthyridin-2(1H)-one hydrochloride | 0.11 g | Cl.C(C)C1=C2C(=CC(N(C2=CC(=N1)CC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O)O | InChI=1S/C26H24N6O2.ClH/c1-3-18-13-22-25(21(4-2)27-18)23(33)14-24(34)32(22)15-16-9-11-17(12-10-16)19-7-5-6-8-20(19)26-28-30-31-29-26;/h5-14,33H,3-4,15H2,1-2H3,(H,28,29,30,31);1H
